US05728708
150 mg (0.71 mmol) of 3-dimethylamino-1-(2-chloro-4-pyridyl)-2-propen-1-one are suspended in 1.5 ml of 2-propanol. 190 mg (0.712 mmol) of 3-trifluoromethylphenyl-guanidine nitrate and 31 mg (0.783 mmol) of sodium hydroxide are added and the reaction mixture is stirred for 18 h under RF. It is then cooled to RT and filtered, and the material retained on the filter is washed with 2-propanol and water and dried at 50° under HV to give N-(3-trifluoromethyl-phenyl)-4-(2-chloro-4-pyridyl)-2-pyrimidineamine;

reactant | 3-dimethylamino-1-(2-chloro-4-pyridyl)-2-propen-1-one | 0.71 mmol, 150 mg | CN(C=CC(=O)C1=CC(=NC=C1)Cl)C | C10H11ClN2O
reactant | 3-trifluoromethylphenyl-guanidine nitrate | 0.712 mmol, 190 mg | [N+](=O)(O)[O-].FC(C=1C=C(C=CC1)NC(=N)N)(F)F
reactant | sodium hydroxide | 0.783 mmol, 31 mg | [OH-].[Na+]
solvent | 2-propanol | 1.5 ml | CC(C)O | C3H8O
product | N-(3-trifluoromethyl-phenyl)-4-(2-chloro-4-pyridyl)-2-pyrimidineamine | FC(C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl)(F)F | C16H10ClF3N4
